US08247403B2
(2) N,N-diethyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride
A solution of tert-butyl 8-(diethylamino)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (250 mg, 0.780 mmol) in 4N hydrogen chloride-ethyl acetate (6 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (144 mg, 62.9%) as a solid.

reactant | tert-butyl 8-(diethylamino)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.780 mmol, 250 mg | C(C)N(C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1)CC | C18H28N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 6 ml | C(C)(=O)OCC.Cl
product | N,N-diethyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride | 144 mg, 62.9% | Cl.Cl.C(C)N(C1=CC2=C(CNCCO2)C=C1)CC | InChI=1S/C13H20N2O.2ClH/c1-3-15(4-2)12-6-5-11-10-14-7-8-16-13(11)9-12;;/h5-6,9,14H,3-4,7-8,10H2,1-2H3;2*1H
